US06388092B2
41B. 6-[Benzo[b]thiophen-2-yl-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1H-quinolin-2-one
Following the same procedure as described in example 1F, benzo[b]thiophen-2-yl-[4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol (147.2 mg, 0.287 mmol) was treated with HCl in aqueous THF to yield the title compound of 41B as a yellow solid (40 mg, 28% yield).

reactant | benzo[b]thiophen-2-yl-[4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol | 0.287 mmol, 147.2 mg | S1C2=C(C=C1C(O)(C=1N(C=NC1)C)C=1C=C3C(=CC(=NC3=CC1)OC)C1=CC(=CC=C1)Cl)C=CC=C2 | C29H22ClN3O2S
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 6-[Benzo[b]thiophen-2-yl-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1H-quinolin-2-one | 40 mg, 28% yield | S1C2=C(C=C1C(C=1C=C3C(=CC(NC3=CC1)=O)C1=CC(=CC=C1)Cl)(C=1N(C=NC1)C)O)C=CC=C2 | C28H20ClN3O2S
